US04364956
5-(4-Hydroxyphenoxy)-4-oxo-4H-pyran-2-carboxylic acid
Boron tribromide (8.8 ml) was added dropwise to a stirred solution of ethyl 5-(4-methoxyphenoxy)-4-oxo-4H-pyran-2-carboxylate (4.35 g) in methylene chloride (50 ml) causing gentle reflux. The solution was heated under reflux for a further 2 hours, then cooled and carefully diluted with water (25 ml). The solid title product was recrystallised from water (mp 257°-258° C. with decomposition).

reactant | Boron tribromide | 8.8 ml | B(Br)(Br)Br | BBr3
reactant | ethyl 5-(4-methoxyphenoxy)-4-oxo-4H-pyran-2-carboxylate | 4.35 g | COC1=CC=C(OC=2C(C=C(OC2)C(=O)OCC)=O)C=C1 | C15H14O6
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 5-(4-Hydroxyphenoxy)-4-oxo-4H-pyran-2-carboxylic acid | OC1=CC=C(OC=2C(C=C(OC2)C(=O)O)=O)C=C1 | C12H8O6
